US05670505
To a stirred mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine (0.1 g) and triethylamine (0.125 ml) in dimethylformamide (0.6 ml) was added ethyl 2-methoxybenzenecarboximidate hydrochloride (62 mg) at room temperature. The resulting mixture was heated at 100° C. for 1 hour. The mixture was poured into ice-water, and extracted by ethyl acetate. The extract was purified on a silica gel column (dichloromethane/methanol) and treatment with 4N hydrogen chloride in ethyl acetate solution gave (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[1-imino-2-(2-methoxyphenyl)ethyl]piperazine hydrochloride.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine | 0.1 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C22H22F6N2O
reactant | triethylamine | 0.125 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-methoxybenzenecarboximidate hydrochloride | 62 mg | Cl.COC1=C(C=CC=C1)C(OCC)=N
solvent | dimethylformamide | 0.6 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[1-imino-2-(2-methoxyphenyl)ethyl]piperazine hydrochloride | Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C(CC2=C(C=CC=C2)OC)=N)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C31H31F6N3O2.ClH/c1-19-8-9-21(12-20(19)2)13-26-18-39(28(38)16-22-6-4-5-7-27(22)42-3)10-11-40(26)29(41)23-14-24(30(32,33)34)17-25(15-23)31(35,36)37;/h4-9,12,14-15,17,26,38H,10-11,13,16,18H2,1-3H3;1H/t26-;/m1./s1
